* NGSPICE file created from AND8.ext - technology: sky130B

.subckt sky130_fd_pr__nfet_01v8_6H9P4D a_n73_n100# a_15_n100# a_n15_n126# VSUBS
X0 a_15_n100# a_n15_n126# a_n73_n100# VSUBS sky130_fd_pr__nfet_01v8 ad=2.9e+11p pd=2.58e+06u as=2.9e+11p ps=2.58e+06u w=1e+06u l=150000u
.ends

.subckt efepmos_W107-L15-F3 a_n129_n204# a_n173_n107# w_n209_n207# a_n81_n107#
X0 a_n81_n107# a_n129_n204# a_n173_n107# w_n209_n207# sky130_fd_pr__pfet_01v8 ad=6.848e+11p pd=5.56e+06u as=6.848e+11p ps=5.56e+06u w=1.07e+06u l=150000u
X1 a_n81_n107# a_n129_n204# a_n173_n107# w_n209_n207# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
X2 a_n173_n107# a_n129_n204# a_n81_n107# w_n209_n207# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
.ends

.subckt inv A VSS VDD Y
Xsky130_fd_pr__nfet_01v8_6H9P4D_0 Y VSS A VSS sky130_fd_pr__nfet_01v8_6H9P4D
Xefepmos_W107-L15-F3_0 A VDD VDD Y efepmos_W107-L15-F3
.ends

.subckt NOT8 A0 A1 A2 A3 A4 A5 A6 A7 S7 S6 S5 S4 S3 S2 S1 S0 VSUBS
Xinv_0 A4 VSUBS inv_7/VDD S4 inv
Xinv_1 A0 VSUBS inv_7/VDD S0 inv
Xinv_2 A1 VSUBS inv_7/VDD S1 inv
Xinv_3 A2 VSUBS inv_7/VDD S2 inv
Xinv_4 A3 VSUBS inv_7/VDD S3 inv
Xinv_5 A5 VSUBS inv_7/VDD S5 inv
Xinv_6 A6 VSUBS inv_7/VDD S6 inv
Xinv_7 A7 VSUBS inv_7/VDD S7 inv
.ends

.subckt nmos_2shared_W200-L015-F1 a_63_n200# a_n63_n226# a_n33_n200# a_33_n226# a_n125_n200#
+ VSUBS
X0 a_n33_n200# a_n63_n226# a_n125_n200# VSUBS sky130_fd_pr__nfet_01v8 ad=6.6e+11p pd=4.66e+06u as=6.2e+11p ps=4.62e+06u w=2e+06u l=150000u
X1 a_63_n200# a_33_n226# a_n33_n200# VSUBS sky130_fd_pr__nfet_01v8 ad=6.2e+11p pd=4.62e+06u as=0p ps=0u w=2e+06u l=150000u
.ends

.subckt pmos_p2-w321-L015-f3 a_n317_n107# w_n353_n143# a_n225_n107# a_33_n138# a_n255_n138#
X0 a_n225_n107# a_33_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=1.0593e+12p pd=8.4e+06u as=1.3696e+12p ps=1.112e+07u w=1.07e+06u l=150000u
X1 a_n225_n107# a_n255_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
X2 a_n317_n107# a_33_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
X3 a_n317_n107# a_n255_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
X4 a_n225_n107# a_n255_n138# a_n317_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
X5 a_n317_n107# a_33_n138# a_n225_n107# w_n353_n143# sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.07e+06u l=150000u
.ends

.subckt NAND2 A B VSS VDD Y
Xnmos_2shared_W200-L015-F1_0 VSS B a_994_146# A Y VSS nmos_2shared_W200-L015-F1
Xpmos_p2-w321-L015-f3_0 VDD VDD Y B A pmos_p2-w321-L015-f3
.ends

.subckt NAND8 A0 B0 A1 B1 A2 B2 A3 B3 A4 B4 A5 B5 A6 B6 A7 B7 P0 P1 P2 P3 P4 P5 P6
+ P7
XNAND2_7 B6 A6 VSUBS NAND2_9/VDD P6 NAND2
XNAND2_8 B1 A1 VSUBS NAND2_9/VDD P1 NAND2
XNAND2_9 B2 A2 VSUBS NAND2_9/VDD P2 NAND2
XNAND2_0 B7 A7 VSUBS NAND2_9/VDD P7 NAND2
XNAND2_1 B4 A4 VSUBS NAND2_9/VDD P4 NAND2
XNAND2_2 B3 A3 VSUBS NAND2_9/VDD P3 NAND2
XNAND2_4 B0 A0 VSUBS NAND2_9/VDD P0 NAND2
XNAND2_6 B5 A5 VSUBS NAND2_9/VDD P5 NAND2
.ends

.subckt AND8 A0 B0 A1 B1 B2 A2 A3 B3 B4 A4 A5 B5 B6 A6 A7 B7 S0 S1 S2 S3 S4 S5 S6
+ S7

XNAND8_0 A0 B0 A1 B1 A2 B2 A3 B3 A4 B4 A5 B5 A6 B6 A7 B7 NOT8_0/A0 NOT8_0/A1 NOT8_0/A2
+ NOT8_0/A3 NOT8_0/A4 NOT8_0/A5 NOT8_0/A6 NOT8_0/A7 NAND8
XNOT8_0 NOT8_0/A0 NOT8_0/A1 NOT8_0/A2 NOT8_0/A3 NOT8_0/A4 NOT8_0/A5 NOT8_0/A6 NOT8_0/A7
+ S7 S6 S5 S4 S3 S2 S1 S0 VSUBS NOT8
.ends

